US04761408
(bc) (2R,3R)-2,3-epoxybutyric acid N-tert.-butoxycarbonylmethyl-N-p-methoxybenzylamide
A solution of 2.21 g of (2R,3R)-2,3-epoxybutyric acid p-methoxybenzylamide in 100 ml of THF is added dropwise to a mixture, stirred at 0° under an argon atmosphere, of 550 mg of sodium hydride dispersion (55-60% in oil) and 1.52 ml of bromoacetic acid tert.-butyl ester in 25 ml of THF. The reaction mixture is heated to room temperature and stirred for a further 1 hour (reaction monitored by thin-layer chromatography). Total reaction time: 90 minutes. The insoluble portions are filtered off and washed with THF and the combined filtrates are concentrated by evaporation. The resulting crude product is purified by chromatography over 150 g of silica gel (system: toluene, toluene/ethyl acetate 80:20). Concentration of the pure fractions by evaporation yields the amorphous title compound.

reactant | (2R,3R)-2,3-epoxybutyric acid p-methoxybenzylamide | 2.21 g | COC1=CC=C(CNC([C@H]2[C@@H](C)O2)=O)C=C1 | C12H15NO3
reactant | sodium hydride | 550 mg | [H-].[Na+]
reactant | bromoacetic acid tert.-butyl ester | 1.52 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (2R,3R)-2,3-epoxybutyric acid N-tert.-butoxycarbonylmethyl-N-p-methoxybenzylamide | C(C)(C)(C)OC(=O)CN(C([C@H]1[C@@H](C)O1)=O)CC1=CC=C(C=C1)OC | C18H25NO5
